US06890940B2
Under nitrogen, lithium aluminum hydride (0.44 g, 12 mmol) was added to a solution of N,N′-dibenzyl-N,N′-dimethyl-3-(1-pyrrolidinyl)glutaramide (1.16 g, 2.85 mmol) in anhydrous tetrahydrofuran (20 mL) stirred in an ice bath, and the mixture was stirred at 65° C. for 2 hours. Methanol (3.0 mL, 74 mmol) was added to the ice-cold reaction mixture, and the ice bath was removed. Water (2.0 mL), diethyl ether (150 mL) and anhydrous magnesium sulfate (15 g) were added, and the mixture was stirred at room temperature for 1 hour. Insoluble materials were removed by filtration through Celite, an the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel to yield N,N′-dibenzyl-N,N′-dimethyl-3-(1-pyrrolidinyl)-1,5-pentanediamine as a colorless oil (917.3 mg, yield: 85%).

reactant | lithium aluminum hydride | 12 mmol, 0.44 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N,N′-dibenzyl-N,N′-dimethyl-3-(1-pyrrolidinyl)glutaramide | 2.85 mmol, 1.16 g | C(C1=CC=CC=C1)N(C(CC(CC(=O)N(C)CC1=CC=CC=C1)N1CCCC1)=O)C | C25H33N3O2
reactant | Methanol | 74 mmol, 3.0 mL | CO | CH4O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N,N′-dibenzyl-N,N′-dimethyl-3-(1-pyrrolidinyl)-1,5-pentanediamine | 917.3 mg, yield: 85% | C(C1=CC=CC=C1)N(CCC(CCN(C)CC1=CC=CC=C1)N1CCCC1)C | C25H37N3
